Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___.
 
Chief Complaint:
___
 
Major Surgical or Invasive Procedure:
none 
 
History of Present Illness:
Mrs ___ is a ___ year old woman without 
significant PMH who is transferred to ___ after a catastrophic 
___.

Per patient's family and medical records, patient was on the 
phone with family on ___ when she suddenly stopped speaking. 
She became unresponsive and incontinent of urine and stool. 
Family denies any involuntary motions or seizure like activity. 
EMS was called and found patient to be awake and alert, but 
confused. Extermely hypertensive 240s/120s. Brought to ___ 
___ in ___. Nicardipine for HTN emergency. 
Head CT with ___/SDH. Pt had rapid decline and was intubated for 
airway protection. Transferred to ___ for potential 
neurosurgery eval. She arrived intubated and unresponsive. Never 
received paralytics. She was evaluated off paralytics by 
neurosurgery who found her to be apneic and without cranial 
nerve reflexes. Neurosurgery called family and discussed plan to 
admit for stabilization, with plan for terminal extubation in AM 
after family has come in. Further information is unable to be 
obtained as patient is unresponsive and unable to contact family 
through provided numbers.

ED COURSE
- In the ED patient had a repeat head CT performed and 
ventilator settings adjusted, but no significant diagnostic or 
management measures were taken. 

 
Past Medical History:
Unknown

 
Social History:
___
Family History:
Unknown 
 
 
Physical Exam:
Admission Physical Exam: 
========================
Vitals: 96.1 87 106/79 (on pressors) 100% on ___ 
GENERAL: Unresponsive on ventilator, e/o poor self-care  
HEENT: Sclera anicteric, MMM, oropharynx clear ETT in place  
NECK: supple, JVP not elevated, no LAD  
LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: RRR, normal S1 S2, no murmurs, rubs, gallops  
ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly  
EXT: WWP 2+ pulses, no clubbing, cyanosis or edema  
SKIN: No rashes/lesions  
NEURO: AAOx0 GCS: 3, pupils are fixed and dilated, no 
occulocranial reflexes. No gag or cough. No corneal reflexes. No 
response to noxious stimuli  

Discharge Physical Exam: 
=========================
Patient expired. 

 
Pertinent Results:
Admission Labs: 
===============
___ 08:44PM BLOOD WBC-18.1* RBC-3.93 Hgb-12.5 Hct-35.8 
MCV-91 MCH-31.8 MCHC-34.9 RDW-12.1 RDWSD-40.5 Plt ___
___ 08:44PM BLOOD Neuts-85.9* Lymphs-6.3* Monos-5.9 
Eos-0.1* Baso-0.5 Im ___ AbsNeut-15.53* AbsLymp-1.13* 
AbsMono-1.06* AbsEos-0.01* AbsBaso-0.09*
___ 08:44PM BLOOD ___ PTT-28.2 ___
___ 08:44PM BLOOD Plt ___
___ 08:44PM BLOOD Glucose-204* UreaN-9 Creat-0.6 Na-136 
K-3.4 Cl-104 HCO3-20* AnGap-15
___ 08:44PM BLOOD ALT-20 AST-47* LD(LDH)-263* AlkPhos-103 
Amylase-78 TotBili-0.5
___ 08:44PM BLOOD Lipase-23
___ 08:44PM BLOOD cTropnT-0.03*
___ 08:44PM BLOOD Albumin-3.6 Calcium-9.0 Phos-2.1* Mg-1.6
___ 09:04PM BLOOD ___ Tidal V-400 PEEP-5 pO2-44* 
pCO2-37 pH-7.42 calTCO2-25 Base XS-0 Intubat-INTUBATED 
Vent-CONTROLLED

Discharge Labs: 
===============
___ 09:40AM BLOOD freeCa-1.22
___ 12:07PM BLOOD Lactate-1.0
___ 12:07PM BLOOD Type-ART O2 Flow-8 pO2-410* pCO2-95* 
pH-7.08* calTCO2-30 Base XS--4
___ 05:39AM BLOOD Calcium-9.6 Phos-4.5# Mg-1.9
___ 05:39AM BLOOD Glucose-120* UreaN-11 Creat-0.6 Na-149* 
K-3.6 Cl-115* HCO3-25 AnGap-13
___ 05:39AM BLOOD Plt ___
___ 05:39AM BLOOD ___ PTT-32.2 ___
___ 05:39AM BLOOD WBC-9.3 RBC-4.13 Hgb-13.0 Hct-37.8 MCV-92 
MCH-31.5 MCHC-34.4 RDW-12.1 RDWSD-40.7 Plt ___

Imaging: 
========
CHEST (PORTABLE AP) Study Date of ___ 8:41 ___ 
Emphysematous changes.  Supportive devices appear appropriately 
positioned

CTA HEAD W&W/O C & RECONS Study Date of ___ 9:25 ___ 
1. Extensive subarachnoid hemorrhage at the bilateral cerebral 
convexities, right greater than left, with focal masslike 
hemorrhage at the anterior right middle cranial fossa causing 
mass effect on the adjacent structures.  Large right convexity 
extra-axial hemorrhage measuring up to 9 mm in depth.  The 
degree of hemorrhage has increased in comparison to prior study. 
 This pattern of hemorrhage may be seen with a ruptured right 
middle cerebral artery aneurysm.  The hemorrhage at the anterior 
right middle cranial fossa could reflect an epidural hematoma 
given its lens shaped morphology, however this is less likely in 
the absence of a calvarial fracture and the additional sites of 
subarachnoid hemorrhage. 
2. Worsening mass effect with effacement of the cortical sulci 
and ventricle, 7 mm of right to left midline shift, and findings 
of downward herniation including effacement of the basilar 
cisterns and cerebellar tonsillar ectopia. 
3. Right to left midline shift, as described, with effacement of 
the right 
lateral ventricle, and asymmetric enlargement of the left 
lateral ventricle with associated periventricular hypodensity 
which may represent ventricular entrapment an and transependymal 
flow. 
4. Enlarging hyperdensity at the posterior aspect of the right 
globe, likely reflecting a subretinal hemorrhage. 
5. Absent contrast filling of the intracranial arterial 
vasculature which is suspicious for elevated intracranial 
pressure given the intracranial 
hemorrhage and findings of mass effect.  Less likely, this could 
reflect early phase of contrast. 
  
Microbiology: 
=============
___ 1:55 am MRSA SCREEN      Source: Nasal swab. 

   MRSA SCREEN (Pending): 

 
Brief Hospital Course:
Summary: 
========
___ year old woman with catastrophic intracranial bleed leading 
to cardiac death. 

Acute Issues: 
=============
# Catastrophic SAH/SDH: 
CTA head with extensive subarachnoid hemorrhage with pattern of 
hemorrhage potentially consistent with ruptured right middle 
cerebral artery aneurysm.  
Pt arrived to ___ without previous paralytics and off 
sedation; had no spontaneous breathing. Family at bedside in 
morning with decision to pursue terminal extubation. Patient 
subsequently experienced cardiac death after terminal extubation 
and expired on ___. No formal declaration of brain death was 
made as family decided to defer study for assessment of cerebral 
blood flow.  

 
Medications on Admission:
None 
 
Discharge Medications:
Expired 
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
Expired 
 
Discharge Condition:
Expired 
 
Discharge Instructions:
Not applicable. 
 
Followup Instructions:
___